US04558043
A mixture of 10 g (43.2 mmole) of 3,5-dimethyl-6-morpholinobenzofuran, 2 g of 5% palladium on carbon and 200 ml of ethyl acetate is hydrogenated at room temperature and a pressure of 4 bar. For completion of the reaction, 2 g, each time, of 5% palladium on carbon are added a further four times during hydrogenation. After a total of 58 hours, the catalyst is filtered off and the filtrate is concentrated by evaporation in vacuo. Purification of the residue by flash chromatography (silica gel, petroleum ether/ether) and distillation of the pure fractions in a bulb tube (130°-140°/6.10-2 torr) yields 3,5-dimethyl-6-morpholino-2,3-dihydrobenzofuran having a melting point of 57°-58°.

reactant | 3,5-dimethyl-6-morpholinobenzofuran | 43.2 mmole, 10 g | CC1=COC2=C1C=C(C(=C2)N2CCOCC2)C | C14H17NO2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 3,5-dimethyl-6-morpholino-2,3-dihydrobenzofuran | CC1COC2=C1C=C(C(=C2)N2CCOCC2)C | C14H19NO2
